US08530433B2
Fifty grams icariin were added into sodium dihydrogen phosphate-disodium hydrogen phosphate buffer (pH5.5) and 100 ml β glucose. 100 ml of β glucosidase was added and the solution was heated to 40° C. with stirring for 24 hours in order to remove glucoside. Then stop heating and repeatedly extract with ethyl acetate. The ethyl acetate layer was pooled and dried. Then repeatedly extract with methanol. The HPLC analysis confirmed that the content of pure icariside II 50.1%. Thus extract comprising icariside II is obtained.

reactant | icariin | Fifty grams | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC2=C(OC=3C(=C(C=C(C3C2=O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)CC=C(C)C)C=5C=CC(=CC5)OC)O)O)O | C33H40O15
reactant | sodium dihydrogen phosphate disodium hydrogen phosphate | pH5.5 | P(=O)(O)(O)[O-].[Na+].P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | glucose | 100 ml | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | icariside II | C[C@@H]1[C@H]([C@@H]([C@@H]([C@@H](O1)OC2=C(OC=3C(=C(C=C(C3C2=O)O)O)CC=C(C)C)C=4C=CC(=CC4)OC)O)O)O | C27H30O10
